US04742061
1-[2-(2-Chlorophenyl)ethyl]-1,2,3,4-tetrahydrobenzo[c]-1,5-naphthyridine hydrochloride
A stirred colorless solution of 1-[(2-chlorophenyl)-acetyl]-1,2,3,4-tetrahydrobenzo[c]-1,5-naphthyridine (5.7 g) in tetrahydrofuran (500 ml) was treated rapidly with 1M borane solution in tetrahydrofuran (68 ml, 0.068 mole of BH3, 4-fold excess) under nitrogen. A yellow color appeared within one minute. After stirring overnight at room temperature with exclusion of moisture, the reaction was quenched by dropwise addition of 10% sodium hydroxide solution (100 ml, gas evolution). The mixture was concentrated to remove the tetrahydrofuran and the aqueous residue was extracted with dichloromethane (2×250 ml). The combined organic phase was dried over anhydrous sodium sulfate, filtered and concentrated to give a viscous gum (borane complex) which was dissolved in glacial acetic acid and treated portion-wise with concentrated hydrochloric acid (25 ml, gas evolution). The resultant solution was stirred for 3 hours at ambient temperature, decanted into ice water (500 ml), basified with 50% sodium hydroxide solution and extracted with dichloromethane (2×250 ml). The organic phase was dried over anhydrous sodium sulfate, filtered and concentrated to an oil (5.43 g). Thin layer chromatographic analysis (silica gel, ethyl acetate) indicated a mixture. The material was purified by HPLC (silica gel, sample applied in 25 ml of dichloromethane, eluted with ethyl acetate, 200 ml/min flow rate), and the appropriate fractions were combined and concentrated to an oil (2.90 g). A solution of the oil in methanol (10 ml) was treated with a slight excess of ethereal hydrogen chloride, followed by dilution with anhydrous ether almost to the cloud point. The solution was seeded with a material obtained from a small scale recrystallization, whereupon crystals precipitated rapidly. After standing 20 minutes (exclusion of light), the precipitate was isolated by vacuum filtration, washed thoroughly with ether and dried in vacuo at 40° C. to give 2.51 g of crystals, m.p. 218°-220° C.

reactant | 1-[(2-chlorophenyl)-acetyl]-1,2,3,4-tetrahydrobenzo[c]-1,5-naphthyridine | 5.7 g | ClC1=C(C=CC=C1)CC(=O)N1C=2C3=C(C=NC2CCC1)C=CC=C3 | C20H17ClN2O
reactant | borane | 1M | B | BH3
reactant | hydrochloric acid | 25 ml | Cl | ClH
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 0.068 mole, 68 ml | O1CCCC1 | C4H8O
product | 1-[2-(2-Chlorophenyl)ethyl]-1,2,3,4-tetrahydrobenzo[c]-1,5-naphthyridine hydrochloride | 2.51 g | Cl.ClC1=C(C=CC=C1)CCN1C=2C3=C(C=NC2CCC1)C=CC=C3 | InChI=1S/C20H19ClN2.ClH/c21-18-9-4-2-6-15(18)11-13-23-12-5-10-19-20(23)17-8-3-1-7-16(17)14-22-19;/h1-4,6-9,14H,5,10-13H2;1H
